US20010000513A1
A suspension of 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (6.08 g, 0.0212 mol) in 6 M hydrochloric acid was refluxed for 22 hours and cooled to room temperature. The solids were filtered and washed with 0.1 M hydrochloric acid. The filter cake was dried under house vacuum (air bleed) to give 5.72 g of 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid as a peach colored solid; mp 173.5-175.5° C.

reactant | 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.0212 mol, 6.08 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15FO3
solvent | hydrochloric acid | 6 M | Cl | ClH
product | 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 5.72 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
